US09376442B2
N-[trans-4-(Acetylamino)cyclohexyl]-4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-N-(trans-4-aminocyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f56) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-N-(trans-4-aminocyclohexyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)N)OCC2CC2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[trans-4-(Acetylamino)cyclohexyl]-4-[5-acetyl-2-(cyclopropylmethoxy)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(C)=O)OCC2CC2)C | C28H33N5O4
